US06376413B1
Solid 2-Methylindenyl lithium (3.34 g, 24.52 mmol) was added to a stirred solution of 9,9-Dichloro,9-silafluorene (3.08 g, 12.26 mmol) in Et2O (ca. 25 mL) and the resultant mixture was stirred at room temperature for 2 hours. The solvent was removed and the residue was extracted into CH2Cl2 (ca. 75 mL), filtered and the solvent removed giving a white powder which was washed with pentane (ca. 50 mL) and dried under vacuum leaving 9-Silafluorene, 9,9-bis-2-Methylindene as a white powder (3.80 g, 71%).

reactant | 2-Methylindenyl lithium | 24.52 mmol, 3.34 g | CC=1C(C2=CC=CC=C2C1)[Li]
reactant | 9,9-Dichloro,9-silafluorene | 12.26 mmol, 3.08 g | Cl[Si]1(C2=CC=CC=C2C=2C=CC=CC12)Cl | C12H8Cl2Si
solvent | Et2O | ca. 25 mL | CCOCC | C4H10O
product | 9-Silafluorene | C1=CC=CC=2C3=CC=CC=C3[SiH2]C12 | C12H10Si
